US06541638B2
Resin derivatized with (2S,4R)-4-sulfanyl-1-(fluorenylmethoxycarbonyl)-pyrrolidine-2-carboxylic acid (9.71 g, 5.73 mmol) above, was treated with DMF (abs. 80 ml), TPTU (3.4 g, 11.46 mmol), DIEA (2.94 ml, 17.2 mmol) for 15 min. The DMF solution was removed under vacuum and the reaction flask was charged with N,O-dimethylhydroxylamine.hydrochloride (1.68 g, 17.2 mmol) in DMF (abs. 80 ml). The reaction mixture was shaken for 2 h and the resin was collected at the filter, washed (3× alternating DMF/isopropanol), DMF. The resin (1.0 g, 0.6 mmol) was washed with THF(abs.2×) under an argon overpressure resuspended in THF (abs. 8 ml) and treated with 4-fluorophenyl magnesiumbromide (1M in THF, 5.9 ml). After 4 h the resin was filtered off and washed with THF. 0.5 N KHSO4 was added and the reaction flask was shaken for 15 min. The resin was further washed DMF, 0.5 N KHSO4, (alternating DMF, MeOH, H2O ), DMF, CH2Cl2, diethyl ether and dried. The resin (0.38 mg) was treated with 40% TFA/CH2Cl2 (10 ml), triisopropylsilane (0.5 ml) for 1 h and the filtrate was collected and concentrated under reduced pressure and the residue was purified by prep.RP-HPLC and the desired fractions were pooled and freeze-dried from acetic acid (10 ml) yielding (2S,4R)-2-(4-fluoro-benzoyl)-4-mercapto-pyrrolidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester MS: 448.3 (MH+).

reactant | (2S,4R)-4-sulfanyl-1-(fluorenylmethoxycarbonyl)-pyrrolidine-2-carboxylic acid | 5.73 mmol, 9.71 g | S[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C20H19NO4S
reactant | TPTU | 11.46 mmol, 3.4 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | DIEA | 17.2 mmol, 2.94 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N,O-dimethylhydroxylamine.hydrochloride | 17.2 mmol, 1.68 g | Cl.CNOC
reactant | 4-fluorophenyl magnesiumbromide | 1M, 5.9 ml | FC1=CC=C(C=C1)[Mg]Br
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | (2S,4R)-2-(4-fluoro-benzoyl)-4-mercapto-pyrrolidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@@H](C[C@H](C1)S)C(C1=CC=C(C=C1)F)=O | C26H22FNO3S
